datasets/10k_Mayr_OG.csv
SMILES Labelled
C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:62]/[C:11](=[CH:10]/[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)[O-:12].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[C:71]1=[CH:72][C:73](Cl)=[CH:74][CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12"
"CC[O:62]/[C:11](=[CH:10]/C1=CC=CC=C1)[O-:12].C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>CC[O:62][C:11]([CH:10](C1=CC=CC=C1)[CH:20]1CCC[C:22]([O-:23])=[C:21]1C)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23].C[Si](C)(C)[C:11](C)=[CH2:10]>>CC[O:33][C:22](=[N:21][N:20]([CH2:10][C+:11](C)[Si](C)(C)C)[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:14](C)=[C:13]1[CH:12]=[CH:11][N:10]([CH:20]([CH:21]=[CH:22][N:23](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC=C(C[Zr:11]23456789([CH2:10]C%10=CC=CC=C%10)(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.CCC[C:20](C)=[O:21]>>C1=CC=C(C[Zr+:11]23456789(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.CCC[C:20](C)([CH2:10]C1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.[H][B-:11]([H])([H:10])[C:62]1=[N+:63](C)[CH:65]=[CH:64][N:73]1C>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([H:10])[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1.[H][B:11]([H])[C:62]1=[N+:63](C)[CH:65]=[CH:64][N:73]1C 10,11=10,20;20,21=21"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.C[N:220](C)[C:19]1=[CH:18][CH:17]=[C:16]([CH:15]=[C:14]2[CH:10]=[CH:11][CH:12]=[CH:13]2)[CH:67]=[CH:68]1>>C[N+:220](C)=[C:19]1[CH:18]=[CH:17][C:16](=[CH:15][C:14]2=[CH:13][CH:12]=[CH:11][CH:10]2[C:20]2(C3=CC=CC=C3)[S:31]CC[S:41]2)[CH:67]=[CH:68]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;18,19=17,18;220=19,220"
"C1C[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)CCO1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([N:10]3[CH:11]=[CH:12][C:13](=[N+:14]4CCOCC4)[CH:62]=[CH:61]3)[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([O:10][C:61]2=[CH:62][C:63](OC)=[CH:64][CH:73]=[CH:72]2)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10=20;20,21=21"
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62]>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:61](C)=[O:62])[C:71](C)=[O:72])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:72][C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C1(C)C>>CC[O:72][C:61]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:81](C1=CC=CC=C1)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.CCCN[C:62]([C@@H:61]1CCC[NH:10]1)=[O:63]>>CCCN[C:62]([C@@H:61]1CCC[NH+:10]1[CH:20]([N:21]=[P:22](C1=CC=CC=C1)(C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1)=[O:63] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCCC2)C=C1.CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23]>>CC(C)(C)[O:33][C:22](=[N:21][CH:20](C1=CC=CC=C1)[CH:10](C1=CC=CC=C1)[CH:11]=[N+:12]1CCCCC1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
